### PR TITLE
[Merged by Bors] - feat: extend `linear_combination` to prove inequalities

### LINKED ISSUE #4836: linear_combination for inequalities
Currently linear_combination cannot be used for inequalities, it would be nice to fix this. Test case would include:
```lean
example (x y : ℝ) (h : x < y) : 0 < y - x := by linear_combination h
example (ε : ℝ) (h : 0 < ε) : 0 < ε / 2 := by linear_combination h / 2

example (x y : ℝ) : 0 ≤ x ^ 2 + x * y + y ^ 2 := by
  have h₁ : 0 ≤ (x - y) ^ 2 := by positivity
  have h₂ : 0 ≤ (x + y) ^ 2 := by positivity
  linear_combination h₁ / 4 + 3 * h₂ / 4
```
And there are extra credit if it can do
```lean
example (a b x : ℝ) (h : a ≤ b) : x ^ 2 * a ≤ x ^ 2 * b := by linear_combination x ^ 2 * h
```
calling `positivity` to ensure the `x^2` coefficient is non-negative.

Somehow there should already be relevant code in the `linarith` frontend.

### PR DESCRIPTION
**Pull request by hrmacbeth**
This PR extends the `linear_combination` tactic to prove inequalities as well as equalities.  From the test file:

```lean
example (a b : ℚ) (h1 : a ≤ 1) (h2 : b = 1) : (a + b) / 2 ≤ 1 := by
  linear_combination (h1 + h2) / 2

example {x y : ℤ} (hx : x + 3 ≤ 2) (hy : y + 2 * x ≥ 3) : y > 3 := by
  linear_combination hy + 2 * hx

example {x y z : ℚ} (h1 : 4 * x + y + 3 * z ≤ 25) (h2 : -x + 2 * y + z = 3)
    (h3 : 5 * x + 7 * z = 43) :
    x ≤ 4 := by
  linear_combination (14 * h1 - 7 * h2 - 5 * h3) / 38

example {t : ℚ} (ht : t ≥ 10) : t ^ 2 - 3 * t - 17 ≥ 5 := by
  linear_combination (t + 7) * ht
```

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

- [x] depends on: #16840
- [x] depends on: #17562
- [x] depends on: #18678

### CODE REVIEW

File: MathlibTest/linear_combination.lean [hunk 1]
```diff
@@ -363,3 +450,13 @@ example (K : Type*) [Field K] [CharZero K] {x y z p q : K}
             59049 * q ^ 7 * p * x ^ 2) *
           h₂
   exact test_sorry
+
+/- When `linear_combination` is used to prove inequalities, its speed is very sensitive to how much
```
Comment (robertylewis) [inline MathlibTest/linear_combination.lean:454]: Could you add the slow version as well, with an appropriate heartbeeat bound, so we can (1) be sure it doesn't get substantially slower and (2) have it handy if/when we try to optimize `linear_combination`?

File: MathlibTest/linear_combination.lean [hunk 2]
```diff
@@ -314,6 +318,89 @@ example (K : Type)
...
+example {a b : ℝ} (hb : b < 1) : a * b ≤ a := by linear_combination a * hb
+
+example {u v x y A B : ℝ} (_ : 0 ≤ u) (_ : 0 ≤ v) (h2 : A ≤ 1) (h3 : 1 ≤ B) (h4 : x ≤ B)
+    (h5 : y ≤ B) (h8 : u < A) (h9 : v < A) :
+    u * y + v * x + u * v < 3 * A * B := by
+  linear_combination v * h2 + v * h3 + v * h4 + u * h5 + (v + B) * h8 + 2 * B * h9
+
+example {t : ℚ} (ht : t ≥ 10) : t ^ 2 - 3 * t - 17 ≥ 5 := by linear_combination (t + 7) * ht
+
+example {n : ℤ} (hn : n ≥ 5) : n ^ 2 > 2 * n + 11 := by linear_combination (n + 3) * hn
```
Comment (robertylewis) [inline MathlibTest/linear_combination.lean:404]:
```suggestion

example (a b c x : ℚ) (h : a*x^2 + b*x + c = 0) : b^2 - 4*a*c ≥ 0 :=
by linear_combination 4*a*h + sq_nonneg (2*a*x + b)

```
Another interesting example!

**Review by robertylewis — APPROVED** [review]
This looks extremely clean, and it's impressive how small the diff really is! (Most of those changes are in docs and new tests.) I have no real suggestions here, this looks ready for production.

bors d+

File: MathlibTest/linear_combination.lean (hunk 1 above)
Comment (hrmacbeth) [reply MathlibTest/linear_combination.lean:454]: I don't follow, sorry -- what do you mean by "the slow version"?  Do you mean the version with the default normalization (`ring`) rather than skipped normalization?

Comment (robertylewis) [reply MathlibTest/linear_combination.lean:454]: Sorry, ignore that. I read "on an implementation with "minimal" typeclasses everywhere" as "on an example," but after a second's thought it's clear you mean an alternate implementation of `linear_combination`.

Comment (hrmacbeth) [reply MathlibTest/linear_combination.lean:454]: Ah, got it!

File: MathlibTest/linear_combination.lean (hunk 2 above)
Comment (hrmacbeth) [reply MathlibTest/linear_combination.lean:404]: Nice!

File: Mathlib/Tactic/Positivity/Core.lean [hunk 3]
```diff
@@ -342,6 +343,24 @@ private inductive OrderRel : Type
...
+  match ← try? (Meta.Positivity.core zα pα e) with
+  | some (.positive pf) => pure (true, pf)
+  | some (.nonnegative pf) => pure (false, pf)
+  | _ => throwError "could not establish the nonnegativity of {e}"
+
+/-- Given an expression `e`, use the core method of the `positivity` tactic to prove it nonnegative.
+-/
+def proveNonneg (e : Expr) : MetaM Expr := do
+  let (strict, pf) ← bestResult e
+  if strict then mkAppM ``le_of_lt #[pf] else pure pf
```
Comment (eric-wieser) [inline Mathlib/Tactic/Positivity/Core.lean:362]: Can we reuse [`Mathlib.Meta.Positivity.Strictness.toNonneg`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Tactic/Positivity/Core.html#Mathlib.Meta.Positivity.Strictness.toNonneg) here?

Comment (hrmacbeth) [reply Mathlib/Tactic/Positivity/Core.lean:362]: Only for the second of these functions (`proveNonneg`), as far as I can tell, and I think that function would actually get longer if rewritten to use `Strictness.toNonneg`.
